US09212164B2
Preparation of (E)-tert-Butyl (2-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1H-indol-1-yl)-2-oxoethyl)carbamate (BI22)
To a stirred solution of (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indole (0.1 g, 0.258 mmol) in acetonitrile (5.0 mL) was added 4-nitrophenyl 2-(tert-butoxycarbonylamino)acetate (0.114 g, 0.387 mmol), potassium fluoride (0.03 g, 0.516 mmol), 18-crown-6-ether (0.075 g, 0.283 mmol) and DIEA (0.0332 g, 0.258 mmol) and the reaction was stirred at RT for 16 h. The reaction mixture was concentrated to obtain a residue which was diluted with DCM and washed with water and brine solution. The separated DCM layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford the crude title compound as a light brown gummy material which was used in the next step without further purification (0.1 g): ESIMS m/z 545.23 ([M+H]+).

reactant | (E)-5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-1H-indole | 0.258 mmol, 0.1 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2C=CNC2=CC1)C(F)(F)F | C18H11Cl2F4N
reactant | 4-nitrophenyl 2-(tert-butoxycarbonylamino)acetate | 0.387 mmol, 0.114 g | C(C)(C)(C)OC(=O)NCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O6
reactant | potassium fluoride | 0.516 mmol, 0.03 g | [F-].[K+]
reactant | 18-crown-6-ether | 0.283 mmol, 0.075 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | DIEA | 0.258 mmol, 0.0332 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-tert-Butyl (2-(5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1H-indol-1-yl)-2-oxoethyl)carbamate | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2C=CN(C2=CC1)C(CNC(OC(C)(C)C)=O)=O)C(F)(F)F | C25H22Cl2F4N2O3
